US08349833B2
4,5,6,7-Tetrahydrofuro[3,2-c]pyridine (0.16 g, 1.3 mmol), 7-bromo-7-(2-chlorophenyl)-2,2-dimethylheptanoic acid ethyl ester (0.49 g, 1.3 mmol) in DMF (13 mL), and potassium carbonate (0.27 g, 1.95 mmol) were combined under an argon atmosphere at room temperature. The mixture was heated to 65° C. overnight under an argon atmosphere. The reaction continued at 65° C. for 48 hours. After cooling to room temperature and concentration under reduced pressure, the crude product (0.28 g) was purified by column chromatography (silica gel, ethyl acetate/heptane=1/20 to 1/5) to afford 7-(2-chlorophenyl)-7-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-2,2-dimethylheptanoic acid ethyl ester (Compound Ij, 0.26 g, 48.1% yield) as a yellow oil. 1H NMR (Field: 300 MHz, Solvent: CDCl3/TMS) δ (ppm): 7.42 (d, 1H, J=7.5 Hz), 7.29 (d, 1H, J=7.2 Hz), 7.17 (t, 1H, J=8.7 Hz), 7.14 (s, 1H), 7.09 (t, 1H, J=8.1 Hz), 6.08 (s, 1H), 4.12 (t, 1H, J=4.2 Hz), 4.01 (q, 2H, J=7.2 Hz), 3.98 (d, 1H, J=14.4 Hz), 3.26 (d, 1H, J=13.5 Hz), 2.79-2.53 (m, 4H), 1.90-1.73 (m, 2H), 1.35-1.32 (m, 2H), 1.20-1.06 (m, 7H), 1.04 (s, 6H). 13C NMR (Field: 75 MHz, Solvent: CDCl3/TMS) δ (ppm): 177.91, 148.97, 140.89, 139.39, 134.93, 129.50, 129.00, 128.02, 126.84, 115.82, 108.84, 63.33, 60.54, 47.61, 47.51, 42.28, 40.78, 33.21, 26.23, 25.35, 24.65, 14.50.

reactant | 4,5,6,7-Tetrahydrofuro[3,2-c]pyridine | 1.3 mmol, 0.16 g | O1C=CC=2CNCCC21 | C7H9NO
reactant | 7-bromo-7-(2-chlorophenyl)-2,2-dimethylheptanoic acid ethyl ester | 1.3 mmol, 0.49 g | C(C)OC(C(CCCCC(C1=C(C=CC=C1)Cl)Br)(C)C)=O | C17H24BrClO2
reactant | potassium carbonate | 1.95 mmol, 0.27 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
product | 7-(2-chlorophenyl)-7-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-2,2-dimethylheptanoic acid ethyl ester | 0.26 g, 48.1% yield | C(C)OC(C(CCCCC(N1CC2=C(CC1)OC=C2)C2=C(C=CC=C2)Cl)(C)C)=O | C24H32ClNO3
